US07186749B2
Step 4: 2-{[6-(1-Benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid.
In a similar manner as described in step 7 of Example 1, the title compound was prepared from methyl 2-{[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate (0.145 g, 0.270 mmol), prepared in the previous step, and the addition of water (3 mL) to the reaction mixture. After the volatiles were removed under reduced pressure, the residue was partitioned between water and methylene chloride. The layers were separated and the aqueous layer was extracted one time with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give the title compound as an off-white solid (0.127 g, 90%), mp 70–80° C. Elemental Analysis for C36H29NO3.0.48 H2O Calc'd: C, 81.23; H, 5.67; N, 2.63. Found: C, 80.67; H 6.28; N, 2.36.

reactant | methyl 2-{[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoate | 0.270 mmol, 0.145 g | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)OC)CC1=CC=CC=C1 | C37H31NO3
solvent | water | 3 mL | O | H2O
product | 2-{[6-(1-Benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}-3-phenylpropanoic acid | 0.127 g, 90% | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OC(C(=O)O)CC1=CC=CC=C1 | C36H29NO3
